US07148226B2
Preparation of compound (4-bromo-2-ethylphenoxy)acetonitrile
Bromoacetonitrile (1.19 ml, 9.94 mmol) was added to a solution of 4-bromo-2-ethylphenol (2.0 g, 9.94 mmol) and potassium carbonate (1.35 g, 9.94 mmol) in DMF (50 ml). The reaction was stirred for 12 hours and then partitioned between diethyl ether (200 ml) and water (200 ml). The organics were separated, dried over magnesium sulfate, filtered and concentrated in vacuuo to afford the title compound as a yellow oil (2.0 g). 1H NMR (CDCl3): δ 1.13 (t, J=12.07 Hz, 3 H), 2.45 (m, 2H), 4.84 (s, 2H), 7.03–7.10 (m, 2H), 7.21 (m, 1H).

reactant | Bromoacetonitrile | 9.94 mmol, 1.19 ml | BrCC#N | C2H2BrN
reactant | 4-bromo-2-ethylphenol | 9.94 mmol, 2.0 g | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
reactant | potassium carbonate | 9.94 mmol, 1.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (4-bromo-2-ethylphenoxy)acetonitrile | 2.0 g | BrC1=CC(=C(OCC#N)C=C1)CC | C10H10BrNO
